US08877774B2
Preparation of 2-(8-Bromooctyl)-1,3-dioxolane
9-Bromononanal (28.0 g, assumed 120 mmol), ethylene glycol (33.6 mL, 600 mmol) and para-toluenesulphonic acid (2.7 g, 13 mmol) in toluene (210 mL) were heated at reflux for 20 hours. The reaction was cooled to RT and quenched with saturated aqueous sodium bicarbonate solution (300 mL). The resulting mixture was extracted with diethyl ether (2×500 mL). The combined organic extracts were washed with saturated aqueous sodium bicarbonate solution (300 mL), water (300 mL), brine (100 mL), dried (magnesium sulfate), filtered and evaporated under reduced pressure to afford the title compound (25.2 g, 79%).

reactant | 9-Bromononanal | 120 mmol, 28.0 g | BrCCCCCCCCC=O | C9H17BrO
reactant | ethylene glycol | 600 mmol, 33.6 mL | C(CO)O | C2H6O2
reactant | para-toluenesulphonic acid | 13 mmol, 2.7 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 210 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(8-Bromooctyl)-1,3-dioxolane | 25.2 g, 79% | BrCCCCCCCCC1OCCO1 | C11H21BrO2
